US08735586B2
5-Bromo-2-methyl-1-phenyl-1H-benzoimidazole
The title compound was prepared with the analogous procedure described in example 1 using 2,5-Dibromonitrobenzene (140 mg, 0.5 mmol) and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as a yellow solid (87 mg, 61%). 1H NMR (DMSO) δ 2.52 (s, 3 H), 7.18 (d, J=8.8 Hz, 1 H), 7.43 (d, J=8.8 Hz, 1 H), 7.58-7.68 (m, 5 H), 7.98 (br s, 1 H); 13C NMR δ 13.5, 112.5, 115.5, 119.5, 126.4, 126.9, 129.6, 130.1, 134.0, 139.0, 154.2, 156.8.

reactant | 2,5-Dibromonitrobenzene | 0.5 mmol, 140 mg | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 5-Bromo-2-methyl-1-phenyl-1H-benzoimidazole | 87 mg, 61% | BrC1=CC2=C(N(C(=N2)C)C2=CC=CC=C2)C=C1 | C14H11BrN2
